US04378361
30.5 gm of 2-bromo-p-benzyloxyacetophenone and 35 gm of 1-aminopropyl-benzimidazole were stirred for 1 hour at 30°-40° C. in 150 ml of acetonitrile. After separation of the hydrobromide, the mother liquor was acidified with 12 gm of maleic acid, and the precipitated α-[3-(1-benzimidazolyl)propylamino]-4-benzyloxyacetophenone maleate (m.p. 145°-148° C.) was collected by suction of filtiation. Aqueous ammonia was used to prepare the base, which was reduced in 200 ml of alcohol with sodium borohydride to form 1-(4-benzyloxyphenyl)-2-[3-(1-benzimidazolyl)-propylamino]-ethanol (m.p. 83°-85° C.).

reactant | 2-bromo-p-benzyloxyacetophenone | 30.5 gm | BrCC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H13BrO2
reactant | 1-aminopropyl-benzimidazole | 35 gm | NC(CC)C=1NC2=C(N1)C=CC=C2 | C10H13N3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1-(4-benzyloxyphenyl)-2-[3-(1-benzimidazolyl)-propylamino]-ethanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CNCCCN1C=NC2=C1C=CC=C2)O | C25H27N3O2
